US09034900B2
Step 1: methyl 4-bromo-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxylate
To a solution of methyl 4-bromo-7-hydroxythieno[2,3-c]pyridine-2-carboxylate (300 mg, 1.04 mmol) stirred at 0° C. in DMF (6.6 mL) under an atmosphere of nitrogen was added K2CO3 (358 mg, 2.6 mmol). After stirring at 0° C. for 15 min, methyl iodide (177 mg, 1.3 mmol) was added dropwise. The ice bath was removed, and mixture was stirred at rt for 20 min, 50° C. for 2 h, and rt for 10 h. The reaction mixture was treated with water (8 mL) and extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine (30 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by silica gel chromatography using a gradient of EtOAc (10 to 100%) in DCM to afford the title compound (284 mg, 90%) as a white solid. LCMS (M+H)+=303.

reactant | methyl 4-bromo-7-hydroxythieno[2,3-c]pyridine-2-carboxylate | 1.04 mmol, 300 mg | BrC1=C2C(=C(N=C1)O)SC(=C2)C(=O)OC | C9H6BrNO3S
reactant | K2CO3 | 2.6 mmol, 358 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 1.3 mmol, 177 mg | CI | CH3I
solvent | DMF | 6.6 mL | CN(C)C=O | C3H7NO
product | methyl 4-bromo-6-methyl-7-oxothieno[2,3-c]pyridine-2-carboxylate | 284 mg, 90% | BrC=1C2=C(C(N(C1)C)=O)SC(=C2)C(=O)OC | C10H8BrNO3S
